US04066635
c. L-pyroglutamyl-l-histidyl-l-prolyl-β-alaninamide
1.0 g of L-pyroglutamyl-L-histidyl-L-prolyl-β-alanine methyl ester acetate was dissolved in 100 ml of methanol. The resulting solution was saturated with ammonia at 0° C, the vessel was made gas-tight and stored at room temperature for 3 days. The solution was then concentrated in vacuo, the residue dissolved in 50 ml of water and lyophilised. Yield: 900 mg. [α]D25 = -94.9° (c = 1 in 1 N acetic acid).

reactant | L-pyroglutamyl-L-histidyl-L-prolyl-β-alanine methyl ester acetate | 1.0 g | C(C)(=O)O.COC(CCNC([C@H]1N(CCC1)C([C@@H](NC([C@H]1NC(CC1)=O)=O)CC1=CNC=N1)=O)=O)=O
reactant | ammonia | N | H3N
solvent | methanol | 100 ml | CO | CH4O
product | L-pyroglutamyl-l-histidyl-l-prolyl-β-alaninamide | N1[C@@H](CCC1=O)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N1[C@H](C(=O)NCCC(=O)N)CCC1 | C19H27N7O5
